US09447078B2
CH3CN addition to 6-((1-((benzyloxy)carbonyl)piperidin-4-yl)methoxy)picolinate following the method described in Example 6 gave benzyl 4-(((6-(2-cyanoacetyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate in which was used in the next step without further purification. Yield (1.53 g, quant).

reactant | 6-((1-((benzyloxy)carbonyl)piperidin-4-yl)methoxy)picolinate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC=CC(=N1)C(=O)[O-]
reactant | CH3CN | CC#N | C2H3N
product | benzyl 4-(((6-(2-cyanoacetyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate | C(#N)CC(=O)C1=CC=CC(=N1)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H23N3O4
